Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Prozac / Serzone / Dicloxacillin / adhesive tape / 
Lamictal / Bactrim DS / Keflex
 
Attending: ___.
 
Chief Complaint:
GI upset, rash

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o man with past medical history significant for obstructive 
sleep apnea, gout and non-alcoholic fatty liver disease who 
presents to the hospital with 4 day history of nausea/vomiting 
and diarrhea.  The patient had developed a cellulitis over a 
week ago and was on treatment with bactrim and keflex.  3 days 
prior to admission, the patient developed a rash and had chills 
and a fever of 101.  He went to see is primary care doctor who 
felt that he had a viral gastroenteritis as he was improving at 
the time.
.
Since then, however the patient continued to feel unwell and 
developed diarrhea as well.  He also notes continued worsening 
of the rash, which he describes as itchy.  He came to the 
emergency room where he was placed in observation overnight.  
When he did not show improvement of his symptoms, he was 
admitted to the medical service.
.
In the emergency room, the patient was found to have mild 
hyperkalemia that resolved with 2L.  He also received zofran and 
famotidine.  His labs were significant for a mild leucopenia of 
2.1 as well.
.

 
Past Medical History:
Obesity
Hyperlipidemia
Transgender male, genetically XX and s/p bilateral mastectomy
and TAH-BSO and cervicectomy in the late ___.  Now followed by
___ for testosterone injections.
Obstructive sleep apnea
Non-alcoholic fatty liver
Bipolar disorder
Gout
History of cervical dysplasia and uterine fibroids.

 
Social History:
___
Family History:
non contributory

 
Physical Exam:
GEN: No acute distress.
HEENT: Mucous membranes moist, no lesions noted.  Sclerae 
anicteric.  No conjunctival pallor noted.  
NECK: JVP not elevated.  No lympadenopathy.
CV: Regular rate and rhythm, no murmurs, rubs ___
PULM: Clear to auscultation bilaterally, no wheezes, rales or 
rhonchi.
ABD: Soft, non-tender, non distended, bowel sounds present.  
Palpable liver edge.
EXTR: No edema, 2+ Dorsalis pedis and radial pulses bilaterally.
NEURO: Alert and oriented x3.  
SKIN: Blanching maculopapular rash on back, anterior shins, and 
abdomen.

Discharge exam: Rash resolved, otherwise unchanged.
 
Pertinent Results:
___ 12:50AM BLOOD WBC-2.1*# RBC-4.20* Hgb-12.8* Hct-37.6* 
MCV-90 MCH-30.5 MCHC-34.1 RDW-12.7 Plt ___
___ 01:35PM BLOOD WBC-3.2* RBC-4.30* Hgb-12.9* Hct-38.8* 
MCV-90 MCH-30.0 MCHC-33.3 RDW-12.8 Plt ___
___ 12:50AM BLOOD Neuts-68.7 ___ Monos-7.7 Eos-4.4* 
Baso-0.3
___ 12:50AM BLOOD ___ PTT-27.2 ___
___ 12:50AM BLOOD Glucose-112* UreaN-16 Creat-1.3* Na-134 
K-5.3* Cl-101 HCO3-22 AnGap-16
___ 01:35PM BLOOD Glucose-137* UreaN-14 Creat-1.0 Na-138 
K-4.7 Cl-104 HCO3-26 AnGap-13
___ 12:50AM BLOOD ALT-180* AST-127* AlkPhos-105 TotBili-0.3
___ 10:55AM BLOOD ALT-171* AST-82* AlkPhos-96
___ 05:05PM BLOOD HIV Ab-NEGATIVE
___ 12:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 6:36 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   FECAL CULTURE (Final ___: 
      NO ENTERIC GRAM NEGATIVE RODS FOUND. 
      NO SALMONELLA OR SHIGELLA FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final ___: 
      Feces negative for C.difficile toxin A & B by EIA. 
           (Reference Range-Negative). 

   VIRAL CULTURE (Preliminary):    NO VIRUS ISOLATED. 

Chest x-ray:

INDICATION: Nausea, vomiting, diarrhea in a patient with 
leukopenia and 
eosinophilia. Evaluate for acute process. 
  
COMPARISON: None. 
  
FINDINGS: The lungs are clear. Heart size is top normal. There 
are no 
pleural abnormalities. 
  
IMPRESSION: No evidence of acute cardiac or pulmonary process. 

 
Brief Hospital Course:
___ y.o man with a recent history of cellulitis who presents with 
nausea/vomiting/diarrhea and a rash that is consistent with a 
drug reaction.  The patient's presentation could be consistent 
with a drug intolerance ___ or possibly a viral 
gastroenteritis. 
.
# Nausea/vomiting/diarrhea - The patient had stool cultures 
checked, ova and parasites, c-diff, all of which returned 
negative.  The patient's symptoms resolved prior to discharge.  
He was given zofran as needed as supportive care.

# Rash - Appeared to be a typical drug rash.  Unclear whether 
bactrim or kelfex was the etiologic agent, given concurrent 
administration.  He was given prn benadryl and sarna lotion. 
This resolved entirely prior to discharge. 

# Vertigo - the patient complained of vertigo while in house 
that worsened with head movement and was periodic in nature.  
His neurological exam was negative for rotational or vertical 
nystagmus, and there were no other focal signs.  ___ 
and head impulse tests were negative.  Based on his history and 
physical exam, his vertigo was thought secondary to a peripheral 
process such as a vestibular neuritis.  He was given a 
prescription for meclizine to use as needed after discharge, 
although the symptoms had improved markedly piror to discharge.

# Transaminitis - He had somewhat elevated transaminases on 
admission, above his baseline high LFTs. These likely were 
elevated from the drug reaction and were trended down.

# Leukopenia - rising on discharge, HIV test was negative.

# Cellulitis - resolved on admission, no further antibiotics 
were prescribed.
 
Medications on Admission:
CEPHALEXIN - 500 mg Capsule - 1 Capsule(s) by mouth every 6 
hours
HYDROCODONE-ACETAMINOPHEN - 5 mg-500 mg Tablet - 1 Tablet(s) by
mouth every ___ hours as needed for pain
LISINOPRIL - 10 mg Tablet - 1 Tablet(s) by mouth daily
LITHIUM CARBONATE [LITHOBID] -  (Prescribed by Other Provider) -
300 mg Tablet Extended Release - 2 Tablet(s) by mouth every
morning, 1 tab by mouth every evening
LORAZEPAM [ATIVAN] -  (Prescribed by Other Provider: OSH PSYCH) 
-
0.5 mg Tablet - 1 Tablet by mouth twice a day (pt typically 
takes
this once at night)
MODAFINIL [PROVIGIL] -  (Prescribed by Other Provider: ___ in ___ - 100 mg Tablet - 1 Tablet(s) by mouth daily 
as
needed for as needed to stay awake
PANTOPRAZOLE [PROTONIX] - 40 mg Tablet, Delayed Release (E.C.) -
1 Tablet(s) by mouth once a day
SIMVASTATIN - 10 mg Tablet - 1 Tablet(s) by mouth daily
SULFAMETHOXAZOLE-TRIMETHOPRIM - 800 mg-160 mg Tablet - 2
Tablet(s) by mouth twice daily
TESTOSTERONE [ANDROGEL] -  (Prescribed by Other Provider: Dr.
___ - 50 mg/5 gram (1 %) Gel in Packet - 5 grams
daily
CAMPHOR-MENTHOL [ANTI-ITCH] - 0.5 %-0.5 % Lotion - apply to
effected area twice daily

 
Discharge Medications:
1. hydrocodone-acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q4H (every 4 hours) as needed for pain.  
2. lithium carbonate 300 mg Tablet Extended Release Sig: Two (2) 
Tablet Extended Release PO QAM (once a day (in the morning)).  
3. lithium carbonate 300 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO QPM (once a day (in the evening)).  
4. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
5. simvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. meclizine 12.5 mg Tablet Sig: One (1) Tablet PO Q8H (every 8 
hours) as needed for dizziness.
Disp:*15 Tablet(s)* Refills:*0*
7. ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO every eight (8) hours as needed for nausea.
Disp:*10 Tablet, Rapid Dissolve(s)* Refills:*0*
8. testosterone 1 %(50 mg/5 gram) Gel in Packet Sig: One (1) 
appl Transdermal daily ().  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Drug reaction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because of a reaction to some 
antibiotics you received that caused you to have a rash, nausea 
and vomiting.  Your symptoms resolved after these antibiotics 
were discontinued.

We have given you prescriptions for zofran for nausea and 
meclizine for dizziness to be taken as needed.
 
Followup Instructions:
___